US06048880
2,5-Di(4-pyridyl)-4-methylthiophen-3-ylmethylhydroxylamine trihydrochloride
To a stirred solution of N,O-di-tert-butoxycarbonyl-[2,5-di(4-pyridyl)-4-methylthiophen-3-yl]methylhydroxylamine (0.16 g) in CH2Cl2 (15 mL) was added trifluoroacetic acid (0.5 mL) and the mixture watered for 2 hours at room temperature. Trifluoroacetic acid (3 mL) was additionally added to the reaction mixture, and stirred for 2 hours. Saturated aqueous NaHCO3 solution was added to the reaction mixture and the whole was extracted with CH2Cl2 (100 mL×2). The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-CH2Cl2 (1:1). The crude product was dissolved in 10% methanolic HCl (1 mL) and the volatiles were removed by evaporation. The resulting solid was recrystallized from diisopropyl ether to give the title compound (0.031 g).

reactant | N,O-di-tert-butoxycarbonyl-[2,5-di(4-pyridyl)-4-methylthiophen-3-yl]methylhydroxylamine | 0.16 g | C(C)(C)(C)OC(=O)N(OC(=O)OC(C)(C)C)CC1=C(SC(=C1C)C1=CC=NC=C1)C1=CC=NC=C1 | C26H31N3O5S
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | Trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Di(4-pyridyl)-4-methylthiophen-3-ylmethylhydroxylamine trihydrochloride | 0.031 g | Cl.Cl.Cl.N1=CC=C(C=C1)C=1SC(=C(C1CNO)C)C1=CC=NC=C1 | InChI=1S/C16H15N3OS.3ClH/c1-11-14(10-19-20)16(13-4-8-18-9-5-13)21-15(11)12-2-6-17-7-3-12;;;/h2-9,19-20H,10H2,1H3;3*1H
